US06544985B2
8-(2-Fluoro-phenyl)-4-(3-imidazol-1-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2′-fluoro-5-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester (Example M22) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a brown solid (50 mg).

reactant | [2′-fluoro-5-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C31H28F4N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-(3-imidazol-1-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=C(C=CC=C1)C=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2C=NC=C2)=O)C1)OCC(F)(F)F | C26H18F4N4O2
